US07652004B2
13-Cyclohexyl-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid
Dissolve tert-Butyl 13-cyclohexyl-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate (203 mg, 0.325 mmol) in 1,2-dichloroethane (3 ml) add TFA (3 ml, 38.9 mmol), The reaction was capped under a nitrogen atmosphere at 25° C. for 2 hrs. Reaction volatiles were removed in vacuuo and the residue dissolved in 80 mL of ethyl acetate with heating. The solution was washed with 1N aqueous hydrochloric acid (2×40 mL), brine and dried over magnesium sulfate. The product solution was filtered, volatiles removed and the sample dried in vacuuo at room temperature overnight to give 179 mg (97%) of a yellow solid. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 0.74-1.03 (m, 4 H) 1.06-1.31 (m, 6H) 1.32-1.50 (m, 3H) 1.56 (d, J=9.16 Hz, 2H) 1.77 (d, J=8.85 Hz, 2H) 1.86-2.18 (m, 5H) 2.83-2.91 (m, 1H) 3.60 (s, 3H) 3.64-3.89 (m, 4H) 3.88-3.93 (m, 4H) 3.95-4.08 (m, 1H) 4.43 (d, J=15.56 Hz, 1H) 5.64 (d, J=14.95 Hz, 1H) 6.99 (d, J=2.75 Hz, 1H) 7.07 (dd, J=8.70, 2.59 Hz, 1H) 7.48-7.56 (m, 2 H) 7.85-7.94 (m, 2H) 8.15 (s, 1H). LC-MS retention time 1.65 min; 568 m/z (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Xterra MS 7u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | tert-Butyl 13-cyclohexyl-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate | 0.325 mmol, 203 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(N=CO2)C(=O)N2CCOCC2)C=C(C=C1)OC)C(=O)OC(C)(C)C | C37H41N3O6
reactant | TFA | 38.9 mmol, 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | 13-Cyclohexyl-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 179 mg, 97% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(N=CO2)C(=O)N2CCOCC2)C=C(C=C1)OC)C(=O)O | C33H33N3O6
